US08487108B2
A mixture of benzyl 1-(bicyclo[2.2.2]octan-1-yl)-3-(N-methyl-N-tert-butoxycarbonylamino)propan-2-ylcarbamate (250 mg, 0.58 mmol) and Pd(OH)2 (20%, 60 mg) in 12 Ml of absolute of MeOH was hydrogenated under 20 psi H2 for 2 h. TLC (EtOAc/Petroleum ether=1:2) indicated the completion of reaction. The mixture was then filtered and evaporated to afford tert-butyl 2-amino-3-(bicyclo[2.2.2]octan-1-yl)propyl(methyl)carbamate (150 mg, 87%) as oil, which was used in the next step without further purification.

reactant | benzyl 1-(bicyclo[2.2.2]octan-1-yl)-3-(N-methyl-N-tert-butoxycarbonylamino)propan-2-ylcarbamate | 0.58 mmol, 250 mg | C12(CCC(CC1)CC2)CC(CN(C(=O)OC(C)(C)C)C)NC(OCC2=CC=CC=C2)=O | C25H38N2O4
catalyst | Pd(OH)2 | 60 mg | [OH-].[OH-].[Pd+2]
solvent | MeOH | CO | CH4O
product | tert-butyl 2-amino-3-(bicyclo[2.2.2]octan-1-yl)propyl(methyl)carbamate | 150 mg, 87% | NC(CN(C(OC(C)(C)C)=O)C)CC12CCC(CC1)CC2 | C17H32N2O2
